US07977344B2
9-[3-(2,2-Dimethyltetrahyro-2H-pyran-4-yl)propyl]-2-{[(1R)-1-methylbutyl]oxy}-8-(methyloxy)-9H-purin-6-amine
Prepared similarly to Intermediate 223 from 2-{[(1R)-1-methylbutyl]oxy}-8-(methyloxy)-1H-purin-6-amine trifluoroacetate and 4-(3-bromopropyl)-2,2-dimethyltetrahydro-2H-pyran but conducting the alkylation over 1 hour at 60° C.

reactant | 2-{[(1R)-1-methylbutyl]oxy}-8-(methyloxy)-1H-purin-6-amine trifluoroacetate | FC(C(=O)O)(F)F.C[C@H](CCC)OC=1NC(=C2N=C(N=C2N1)OC)N
reactant | 4-(3-bromopropyl)-2,2-dimethyltetrahydro-2H-pyran | BrCCCC1CC(OCC1)(C)C | C10H19BrO
product | 9-[3-(2,2-Dimethyltetrahyro-2H-pyran-4-yl)propyl]-2-{[(1R)-1-methylbutyl]oxy}-8-(methyloxy)-9H-purin-6-amine | CC1(OCCC(C1)CCCN1C2=NC(=NC(=C2N=C1OC)N)O[C@@H](CCC)C)C | C21H35N5O3
